US05200109
1.59 g (24.1 mM) of 85%-potassium hydroxide was dissolved in 50 ml of ethanol on an oil bath (bath temperature: about 70° C.). To the solution, 3.37 g (wet, 8.90 mM) of 2-decyl-5-(4-acetoxy-3-fluorophenyl)-1,3,4-thiadiazole was added, followed by stirring for 10 minutes at about 70° C. After the reaction, the reaction mixture was poured into iced water, followed by filtration under reduced pressure. The filtrate was condensed, followed by successive addition of about 100 ml of water, 2.3 ml of concentrated sulfuric acid and common salt and stirring at room temperature to precipitate a crystal. The crystal was dissolved in ethyl acetate and dried with anhydrous sodium sulfuric acid. The sodium sulfuric acid was recovered by filtration and the filtrate was condensed into a solid; n-hexane was added to the solid and stirred at room temperature, followed by filtration to obtain 2.78 g of 2-decyl-5-(3-fluoro-4-hydroxyphenyl)-1,3,4-thiadiazole (Yield: 92.8%, Yield through the steps iii) and iv): 82.7%).

reactant | potassium hydroxide | [OH-].[K+]
reactant | 2-decyl-5-(4-acetoxy-3-fluorophenyl)-1,3,4-thiadiazole | 8.90 mM, 3.37 g | C(CCCCCCCCC)C=1SC(=NN1)C1=CC(=C(C=C1)OC(C)=O)F | C20H27FN2O2S
reactant | water | O | H2O
reactant | water | about 100 ml | O | H2O
reactant | sulfuric acid | 2.3 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | n-hexane | CCCCCC | C6H14
product | 2-decyl-5-(3-fluoro-4-hydroxyphenyl)-1,3,4-thiadiazole | 2.78 g, Yield: 92.8% | C(CCCCCCCCC)C=1SC(=NN1)C1=CC(=C(C=C1)O)F | C18H25FN2OS
